US09102614B2
Preparation of [1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-hydroxy-acetic acid ethyl ester:
To a solution of [1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-(4-methoxy-benzyloxy)-acetic acid ethyl ester (58 mg, 0.115 mmol) in dichloromethane (3 mL) was added trifluoroacetic acid (58 μL). The reaction mixture was stirred for 2 h at room temperature and then quenched carefully with sat. NaHCO3. The aqueous layer was extracted with dichloromethane twice, and then the combined organic layers were washed with water, dried (Na2SO4), concentrated and purified by flash column chromatography to give desired (23 mg).

reactant | [1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-(4-methoxy-benzyloxy)-acetic acid ethyl ester | 0.115 mmol, 58 mg | C(C)OC(C(OCC1=CC=C(C=C1)OC)C1=C(C2=CC=CC(=C2C=C1C)OC)C1=CC=C(C=C1)Cl)=O | C30H29ClO5
reactant | trifluoroacetic acid | 58 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | [1-(4-chloro-phenyl)-5-methoxy-3-methyl-naphthalen-2-yl]-hydroxy-acetic acid ethyl ester | C(C)OC(C(O)C1=C(C2=CC=CC(=C2C=C1C)OC)C1=CC=C(C=C1)Cl)=O | C22H21ClO4
